US04585789
3-(4-Hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)-propionic acid (100 mg) was dissolved in pyridine (2 ml), and acetic anhydride (1 ml) was added. The mixture was allowed to stand overnight. The excess reagent and solvent were removed by distillation under reduced pressure, and the residue was dried to give 3-(4-acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (116 mg) as an oil.

reactant | 3-(4-Hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)-propionic acid | 100 mg | OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C13H12O5
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 116 mg | C(C)(=O)OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C15H14O6
